US03935253
To a solution, cooled to -40°, of 3.3 g of 2-(2-formyl-3-methylbutyl)-3-isopropenyl-1-cyclopentene in 225 ml of nitromethane were added 45 ml of a 0.5-M solution of tin tetrachloride in nitromethane. The reaction mixture became intensely yellow in colour and an initially resulting precipitate dissolved again. The mixture was treated immediately with excess 2-N sodium carbonate solution and extracted with ether. After washing, the ethereal phase was dried in a conventional manner and the solvent was removed. Distillation under a high vacuum yielded 2.6 g of crude 3a,6-epoxy-7-isopropyl-1,4-dimethyl-2,3,3a,4,5,6,7,8-octahydroazulene in the form of a colourless oil which could be separated by chromatography on 40 times the amount of Florisil (magnesium silicate gel) with hexane/ether (19:1) into two pairs of epimers (A and B). Epimer A: b.p.0.01 ca 75°; IR(film):νmax = 1465/40, 1380, 1345, 1245, 1162, 1125, 1108, 1080, 1050, 995, 965, 945, 910, 880 cm-1. The odour is camphorous, woody. Epimer B: b.p.0.01 ca 80°IR(film):νmax = 1465/35, 1380, 1340, 1295, 1245, 1200/1195, 1170, 1145, 1110, 1060, 1030, 1000, 990, 950, 925, 910, 878 cm-1. The odour is camphorous, dull.

reactant | 2-(2-formyl-3-methylbutyl)-3-isopropenyl-1-cyclopentene | 3.3 g | C(=O)C(CC1=CCCC1C(=C)C)C(C)C | C14H22O
reactant | tin tetrachloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | nitromethane | 225 ml | [N+](=O)([O-])C | CH3NO2
product | 3a,6-epoxy-7-isopropyl-1,4-dimethyl-2,3,3a,4,5,6,7,8-octahydroazulene | 2.6 g | O1C23CCC(=C3CC(C1CC2C)C(C)C)C | C15H24O
